US03931277
44 g (0.31 mole) of chlorosulfonyl-isocyanate are added to a solution of 50 g (0.29 mole) of benzenesulfonic acid methylamide in 150 ml of chlorobenzene, and the whole is heated at 120°C for 4 hours with agitation. The distillation yields 47 g (58 %) of phenylsulfonyl-methylaminosulfonylisocyanate having a boiling point of 125° -128°C/ 0.03 torr.

reactant | chlorosulfonyl-isocyanate | 0.31 mole, 44 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzenesulfonic acid methylamide | 0.29 mole, 50 g | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | phenylsulfonyl-methylaminosulfonylisocyanate | 47 g, 58 % | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)(=O)N=C=O)C | C8H8N2O5S2
